US05232924
Synthesis of 2-[2-[4-[Bis(4-fluorophenyl)methylene]piperidin-1-yl]ethyl]-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a1pyridin-3(2H)-one
2-(2-Chloroethyl)-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one (26.8 g), 31.5 g of sodium iodide and 400 mλ of acetonitrile were refluxed for 30 minutes. To the reaction mixture were added 38.2 g of 4-[bis(4-fluorophenyl)methylene]piperidine and 27.6 g of potassium carbonate, followed by heating at reflux for 8 hours. The insoluble material was removed by filtration, and the filtrate was concentrated to dryness under reduced pressure. The residue was dissolved in 200 mλ of chloroform, and the solution was applied to a column contained with 550 g of silica gel and eluted with chloroform to obtain 53.0 g of the entitled compound as an oily substance.

reactant | 2-(2-Chloroethyl)-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a]pyridin-3(2H)-one | 26.8 g | ClCCN1N=C2N(CCCC2)C1=O | C8H12ClN3O
reactant | sodium iodide | 31.5 g | [I-].[Na+]
reactant | 4-[bis(4-fluorophenyl)methylene]piperidine | 38.2 g | FC1=CC=C(C=C1)C(=C1CCNCC1)C1=CC=C(C=C1)F | C18H17F2N
reactant | potassium carbonate | 27.6 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | C(C)#N | C2H3N
product | 2-[2-[4-[Bis(4-fluorophenyl)methylene]piperidin-1-yl]ethyl]-5,6,7,8-tetrahydro-1,2,4-triazolo[4,3-a1pyridin-3(2H)-one | 53.0 g | FC1=CC=C(C=C1)C(=C1CCN(CC1)CCN1N=C2N(CCCC2)C1=O)C1=CC=C(C=C1)F | C26H28F2N4O
